US07205296B2
Analogous to the sulfonylurea urea coupling method described in Ex 5, 3-(6-aminopyridin-3-yl)-6-fluoro-7-(methylamino)-2,3-dihydrobenzo[e][1,3]oxazin-4-one was coupled with ethyl 5-methylthiophen-2-ylsulfonylcarbamate to yield 1-(5-(6-fluoro-7-(methylamino)-4-oxo-2H-benzo[e][1,3]oxazin-3(4H)-yl)pyridin-2-yl)-3-(5-methylthiophen -2-ylsulfonyl)urea. RP-HPLC: 2.7 min; ES-MS (M+H)+=492.3; 1H-NMR (MeOH-d4) δ (ppm): 2.5 (s, 3), 2.86 (s, 3), 5.5 (s, 2), 6.2 (d, 1), 6.8 (d, 1), 7.4 (d, 1), 7.46 (d, 1), 7.6 (d, 1), 7.8 (dd, 1), 8.3 (d, 1).

reactant | sulfonylurea urea | NC(=O)N.S(=O)(=O)=NC(=O)N
reactant | 3-(6-aminopyridin-3-yl)-6-fluoro-7-(methylamino)-2,3-dihydrobenzo[e][1,3]oxazin-4-one | NC1=CC=C(C=N1)N1COC2=C(C1=O)C=C(C(=C2)NC)F | C14H13FN4O2
reactant | ethyl 5-methylthiophen-2-ylsulfonylcarbamate | CC1=CC=C(S1)S(=O)(=O)NC(OCC)=O | C8H11NO4S2
product | 1-(5-(6-fluoro-7-(methylamino)-4-oxo-2H-benzo[e][1,3]oxazin-3(4H)-yl)pyridin-2-yl)-3-(5-methylthiophen -2-ylsulfonyl)urea | FC=1C(=CC2=C(C(N(CO2)C=2C=CC(=NC2)NC(=O)NS(=O)(=O)C=2SC(=CC2)C)=O)C1)NC | C20H18FN5O5S2
